US07435827B2
A 0.5 liter reactor equipped with a mechanical stirrer, a thermometer, a reflux condenser and a dropping funnel, was loaded with Zoledronic acid form I (10.0 g) and water (130 ml). The suspension was heated to reflux temperature to obtain a clear solution. A 40% aqueous solution of Sodium hydroxide (6.9 g) was added drop-wise. The solution was then cooled to 4° C. during 2 hours and was stirred at this temperature for about 1.5 hours. The solution was concentrated to half of its volume to obtain a precipitate. The white precipitate was filtered and dried in a vacuum oven at 50° C. for 22 hours to obtain 2.7 g (22%) of Zoledronate disodium crystal form VII (LOD by TGA=10.7%).

reactant | Zoledronic acid | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O | C5H10N2O7P2
reactant | Sodium hydroxide | 6.9 g | [OH-].[Na+]
solvent | water | 130 ml | O | H2O
product | Zoledronate disodium | 2.7 g, 22% | C1=CN(C=N1)CC(O)(P(=O)(O)[O-])P(=O)(O)[O-].O.O.O.O.[Na+].[Na+] | InChI=1S/C5H10N2O7P2.2Na.4H2O/c8-5(15(9,10)11,16(12,13)14)3-7-2-1-6-4-7;;;;;;/h1-2,4,8H,3H2,(H2,9,10,11)(H2,12,13,14);;;4*1H2/q;2*+1;;;;/p-2
